US06051712
400 mg (1.30 mmol) of [3-(2-trimethylsilylethoxy-methoxy)-naphthalen-2-yl]-methanol and 462 mg (1.81 mmol) of carbon tetrabromide were dissolved in 5 ml of absolute acetonitrile and the solution was cooled to 0° C. A solution of 446 mg (1.68 mmol) of triphenylphosphine in 6 ml of absolute acetonitrile was added dropwise thereto at 0° C. within 10 minutes and thereafter the mixture was stirred at 0° C. for a further 30 minutes. Subsequently, the solvent was distilled off under reduced pressure and, for purification, the crude product was chromatographed, without further working up, on silica gel using a 2:3 mixture of methylene chloride and hexane as the eluent. There were obtained 314 mg (65% of theory) of 2-bromomethyl-3-(2-trimethylsilylethoxymethoxy)-naphthalene as a light yellow oil; MS: 366, 368 (M)+.

reactant | [3-(2-trimethylsilylethoxy-methoxy)-naphthalen-2-yl]-methanol | 1.30 mmol, 400 mg | C[Si](CCOCOC=1C(=CC2=CC=CC=C2C1)CO)(C)C | C17H24O3Si
reactant | carbon tetrabromide | 1.81 mmol, 462 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.68 mmol, 446 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 2-bromomethyl-3-(2-trimethylsilylethoxymethoxy)-naphthalene | 314 mg, 65% | BrCC1=CC2=CC=CC=C2C=C1OCOCC[Si](C)(C)C | C17H23BrO2Si
